US08193178B2
Step A: 6,7,8,9-Tetrahydro-benzo[4,5]furo[3,2-d]pyrimidin-4-ol
A 15 mL flask was charged with 3-amino-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid ethyl ester (synthesized by the route described in Example 5, Step A; 0.50 g, 2.4 mmol), formamide (4.8 mL), and KOtBu (95%; 0.56 g, 4.8 mmol) under N2. After heating at 110° C. for 12 h, the mixture was poured over cold satd. aq. NH4Cl (10 mL). Filtration afforded the desired product (0.31 g). MS: No signal. 1H NMR (400 MHz, d6-DMSO) δ ppm 8.00 (s, 1H), 2.74-2.69 (m, 2H), 2.56-2.51 (m, 2H), 1.92-1.81 (m, 2H), 1.79-1.69 (m, 2H).

reactant | 3-amino-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(S1)CCCC2)N | C11H15NO2S
reactant | formamide | 4.8 mL | C(=O)N | CH3NO
reactant | KOtBu | 4.8 mmol, 0.56 g | CC(C)(C)[O-].[K+]
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
product | 6,7,8,9-Tetrahydro-benzo[4,5]furo[3,2-d]pyrimidin-4-ol | 0.31 g | N1=CN=C(C2=C1C1=C(O2)CCCC1)O | C10H10N2O2
